US06127379
b) Methylthiochroman-4-ol-8-carboxylate
Methylthiochroman-4-one-8-carboxylate (0.500 g, 2.25 mmol) was dissolved with stirring in ethanol (20 ml). After 1 h, the reaction mixture was evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The aqueous layer was then extracted with ethyl acetate (1×) and the combined organic layers were dried (Na2SO4) and evaporated under reduced pressure to give a yellow oil, which was purified by silica-gel chromatography (1:1 Pentane:EtOAc as eluant) to give the title compound as a colourless oil (0.499 g, 99%)

reactant | Methylthiochroman-4-one-8-carboxylate | 2.25 mmol, 0.500 g | COC(=O)C=1C=CC=C2C(CCSC12)=O | C11H10O3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Methylthiochroman-4-ol-8-carboxylate | 0.499 g, 99% | COC(=O)C=1C=CC=C2C(CCSC12)O | C11H12O3S
